US04565817
5.04 g. of 2-(theophylline-7-yl)-acetamidoxime, 2.16 g. of sodium methylate, 4.72 g. of diethyl carbonate and 100 cm3 of toluene are heated for 2 hours to boiling, the mixture is then evaporated and the residue crystallized from water. 4.3 g. (82% yield) of 7-[(5-hydroxy-1,2,4-oxadiazol-3-yl)-methyl]-theophylline are obtained. M.p.: 206°-207° C.

reactant | 2-(theophylline-7-yl)-acetamidoxime | N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(N)=NO | C9H12N6O3
reactant | sodium methylate | C[O-].[Na+]
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | 7-[(5-hydroxy-1,2,4-oxadiazol-3-yl)-methyl]-theophylline | 82% yield | OC1=NC(=NO1)CN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C10H10N6O4
